US08304434B2
Step 8: 4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine
To a 250 ml round bottom flask was added tert-butyl 4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine-1-carboxylate from the previous step, 60 ml ethyl acetate and 60 ml 3N HCl. The reaction mixture was heated at reflux for 3 hours. NMR showed complete conversion. The volatiles were removed and the residue was dissolved in 50 ml water, washed with 50 ml ether. The aqueous portion was basified with addition of KOH and extracted twice with 60 ml ethyl acetate. The extracts were dried over sodium sulfate, filtered and concentrated to give 3.5 g colorless solid.

reactant | tert-butyl 4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine-1-carboxylate | CC(C)(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C20H28F3NO4S
reactant | HCl | 3N, 60 ml | Cl | ClH
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine | 3.5 g | CC(C)(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C1CCNCC1 | C15H20F3NO2S
